US04007183
22.6 g of 2-hydroxy-4-octoxy-benzhydrazide are dissolved in 200 ml of dimethylacetamide at 60° C and treated with a solution of 10 g of 2-(di-n-propylamino)-4,6-dichloro-s-triazine in 50 ml of dimethylacetamide whilst keeping the temperature constant. The reaction mixture is heated to 120° C over the course of 3 hours. After cooling, it is poured into one litre of water, whereupon the product precipitates as a white solid. After filtration, it is dried and recrystallised from ethylene glycol-monomethyl ether. 2-(Di-n-propylamino)-4,6-di-(2-hydroxy-4-octoxybenzoylhydrazino)-s-triazine (Stabiliser No. 21) is thus obtained in the form of a white powder of melting point 195° - 196° C.

reactant | 2-hydroxy-4-octoxy-benzhydrazide | 22.6 g | OC1=C(C(=O)NN)C=CC(=C1)OCCCCCCCC | C15H24N2O3
reactant | 2-(di-n-propylamino)-4,6-dichloro-s-triazine | 10 g | C(CC)N(C1=NC(=NC(=N1)Cl)Cl)CCC | C9H14Cl2N4
reactant | water | one litre | O | H2O
solvent | dimethylacetamide | 200 ml | CC(=O)N(C)C | C4H9NO
solvent | dimethylacetamide | 50 ml | CC(=O)N(C)C | C4H9NO
product | 2-(Di-n-propylamino)-4,6-di-(2-hydroxy-4-octoxybenzoylhydrazino)-s-triazine | C(CC)N(C1=NC(=NC(=N1)NNC(C1=C(C=C(C=C1)OCCCCCCCC)O)=O)NNC(C1=C(C=C(C=C1)OCCCCCCCC)O)=O)CCC | C39H60N8O6
